US04126687
A mixture of 9 parts of 1-(3-chloropropyl)-1H-benzimidazole, 10 parts of 5-chloro-1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one, 7.4 parts of sodium carbonate and 200 parts of 4-methyl-2-pentanone is stirred and refluxed overnight. The reaction mixture is cooled, water is added and the layers are separated. The organic phase is dried, filtered and evaporated. The residue is crystallized from 4-methyl-2-pentanone, yielding 2.9 parts (14%) of 1-{1-[3-(1H-benzimidazol-1-yl)propyl]-4-piperidinyl}-5-chloro-1,3-dihydro-2H-benzimidazol-2-one; mp. 224° C.

reactant | 1-(3-chloropropyl)-1H-benzimidazole | ClCCCN1C=NC2=C1C=CC=C2 | C10H11ClN2
reactant | 5-chloro-1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one | ClC1=CC2=C(N(C(N2)=O)C2CCNCC2)C=C1 | C12H14ClN3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
solvent | water | O | H2O
product | 1-{1-[3-(1H-benzimidazol-1-yl)propyl]-4-piperidinyl}-5-chloro-1,3-dihydro-2H-benzimidazol-2-one | 14% | N1(C=NC2=C1C=CC=C2)CCCN2CCC(CC2)N2C(NC1=C2C=CC(=C1)Cl)=O | C22H24ClN5O
